US07674825B2
XIIc: Methyl(E)-8-(2-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-6-oxo-7-octenoate
Under argon, 0.26 g (10.87 mmol) of sodium hydride was added to a solution of 3.20 g (10.87 mmol) of methyl 7-(diethoxyphosphoryl)-6-oxoheptanoate from Ex. XIIb in 53 ml of THF. The mixture was stirred at room temperature for 30 min, a solution of 9.06 mmol of 2-{[tert-butyl(dimethyl)silyl]oxy}benzaldehyde from Ex. XIIa in 20 ml of THF was added and the mixture was stirred at room temperature for 18 h. Water was added, the mixture was extracted with ethyl acetate, the combined organic phases were dried over Na2SO4 and the solvent was removed. The product was purified chromatographically (silica gel, cyclohexane/EA 10:1). This gave 2.51 g (67.8%) of a colorless liquid.

reactant | sodium hydride | 10.87 mmol, 0.26 g | [H-].[Na+]
reactant | methyl 7-(diethoxyphosphoryl)-6-oxoheptanoate | 10.87 mmol, 3.20 g | C(C)OP(=O)(OCC)CC(CCCCC(=O)OC)=O | C12H23O6P
reactant | 2-{[tert-butyl(dimethyl)silyl]oxy}benzaldehyde | 9.06 mmol | [Si](C)(C)(C(C)(C)C)OC1=C(C=O)C=CC=C1 | C13H20O2Si
reactant | Water | O | H2O
solvent | THF | 53 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Methyl(E)-8-(2-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-6-oxo-7-octenoate | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC=C1)/C=C/C(CCCCC(=O)OC)=O | C21H32O4Si
